US05444080
(i) methyl 3-[2-n-butyl-4-chloro-1-{(2-chlorophenyl)methyl}-1H-imidazol-5-yl]-2-benzylpropanoate
To a solution of methyl 3-[2-n-butyl-1-{(2-chlorophenyl)methyl}-1H-imidazol-5-yl]-2-benzylpropanoate [Example 9 (4.34 g, 0.01 mol) in tetrahydrofuran (20 mL) was added N-chlorosuccinimide (1.35 g, 0.01 mol) in portions over a one hour period. The mixture was heated to 60° C. for one-hour. The tetrahydrofuran was evaporated, the residue was dissolved in ethyl-acetate and washed with 5% aqueous sodium bicarbonate solution and water. The dried, concentrated product was flash chromatographed over silica gel with 1:1 hexane/ethyl acetate to provide 2.7 g (55%) of the title compound.

reactant | methyl 3-[2-n-butyl-1-{(2-chlorophenyl)methyl}-1H-imidazol-5-yl]-2-benzylpropanoate | C(CCC)C=1N(C(=CN1)CC(C(=O)OC)CC1=CC=CC=C1)CC1=C(C=CC=C1)Cl | C25H29ClN2O2
reactant | N-chlorosuccinimide | 0.01 mol, 1.35 g | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | methyl 3-[2-n-butyl-4-chloro-1-{(2-chlorophenyl)methyl}-1H-imidazol-5-yl]-2-benzylpropanoate | 2.7 g, 55% | C(CCC)C=1N(C(=C(N1)Cl)CC(C(=O)OC)CC1=CC=CC=C1)CC1=C(C=CC=C1)Cl | C25H28Cl2N2O2
